US05804559
b) Preparation of N-(tert-butoxycarbonyl)-N'-(2-cyanoethyl)-N,N'-dimethyl-ethylenediamine
530 mg of acrylonitrile were slowly added to 1.88 g of N-(tert-butoxycarbonyl)-N,N'-dimethyl-ethylenediamine, while cooling with ice. The mixture was stirred at 0° C. for 1 hour, at RT for 14 hours and at 60° C. for 2 hours. The volatile constituents were removed in vacuo and the residue was purified by chromatography over silica gel (EA:MeOH 9:1). 1.92 g of product were obtained. MS(Cl): 242 (M+H)⊕, 186, 142

reactant | acrylonitrile | 530 mg | C(C=C)#N | C3H3N
reactant | N-(tert-butoxycarbonyl)-N,N'-dimethyl-ethylenediamine | 1.88 g | C(C)(C)(C)OC(=O)N(CCNC)C | C9H20N2O2
product | N-(tert-butoxycarbonyl)-N'-(2-cyanoethyl)-N,N'-dimethyl-ethylenediamine | 1.92 g | C(C)(C)(C)OC(=O)N(CCN(C)CCC#N)C | C12H23N3O2
